US04450168
3-[(Ethoxymethoxy)methyl]-1-methyl-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine
A solution of 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanol (3.6 g) in dry tetrahydrofuran (30 ml) and dry dimethylformamide (3 ml), was added to a suspension of an 80% dispersion of sodium hydride in mineral oil (0.31 g), in dry tetrahydrofuran (10 ml).The suspension was heated under reflux for 0.5 h. and cooled to room temperature. Chloromethyl ethyl ether (1.0 ml) was added dropwise, and thesuspension was heated at reflux for 1 h. The solvent was removed under reduced pressure, and the residual yellow oil was partitioned between aqueous sodium carbonate and ethyl acetate. The organic phase was chromatographed on silica using a mixture of dichloromethane:ethanol:0.880ammonia (100:8:1) to give an oil (0.7 g). This oil was distilled to give the title compound (0.44 g) as a pale yellow oil b.p. 220°/0.06 mm Hg.

reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanol | 3.6 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C19H29N5O2
reactant | sodium hydride | [H-].[Na+]
reactant | Chloromethyl ethyl ether | 1.0 ml | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[(Ethoxymethoxy)methyl]-1-methyl-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine | 0.7 g | C(C)OCOCC1=NN(C(=N1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C | C22H35N5O3
